US06946076B2
In another example, chemically equivalent amounts of neutralised glycolic acid and lanthanum chloride were mixed at 50° C. to form lanthanum glycolate crystals with a narrow particle size range averaging about 20 microns. The glycolic acid (70% wt/wt water) was neutralised with sodium hydroxide at a rate to ensure that the resultant temperature was between 50° and 60° and that boiling did not occur during neutralisation. Lanthanum chloride solution of about 48% wt/wt water was then added slowly to the hot neutralised glycolic acid solution while stirring. The rate of addition in this case was kept between 100 ml and 200 ml per minute while the temperature was maintained at about 50° C. The resultant precipitate was separated from the liquor, dried and confirmed by analysis to be substantially lanthanum glycolate.

reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | lanthanum chloride | [Cl-].[La+3].[Cl-].[Cl-]
product | lanthanum glycolate | C(CO)(=O)[O-].[La+3].C(CO)(=O)[O-].C(CO)(=O)[O-] | InChI=1S/3C2H4O3.La/c3*3-1-2(4)5;/h3*3H,1H2,(H,4,5);/q;;;+3/p-3
